US06001849
3a. 1-BOC-2-(R)-ethynylpyrrolidine
The title compound was prepared from N-BOC-(R)-proline according to the procedures of Examples 1a-c above. [α]D≤ +113.0 (c 0.94, MeOH).

reactant | N-BOC-(R)-proline | C(=O)(OC(C)(C)C)N1[C@@H](C(=O)O)CCC1 | C10H17NO4
reactant | MeOH | CO | CH4O
product | 1-BOC-2-(R)-ethynylpyrrolidine | C(=O)(OC(C)(C)C)N1[C@H](CCC1)C#C | C11H17NO2
